data/oMe_Silver.jsonl
{"reaction_id": "NR-211_1-c1ccc(C(F)(F)F)cc1_2-c1ccccc1_3-CCCCCCCC_4-c1ccc(N(=O)=O)cc1","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)c1ccccc1","[C-]#[N+]CCCCCCCC","O=C(O)c1ccc(N(=O)=O)cc1"],"products_smiles": ["O=C(c1ccc(N(=O)=O)cc1)OC(C(=O)NCCCCCCCC)(c1ccc(C(F)(F)F)cc1)c1ccccc1"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccc(C(F)(F)F)cc1)c1ccccc1","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(c1ccc(C(F)(F)F)cc1)(c1ccccc1)C(#[N+]CCCCCCCC)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccc(N(=O)=O)cc1)OC(=[N]CCCCCCCC)C(c1ccc(C(F)(F)F)cc1)(c1ccccc1)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(c1ccc(N(=O)=O)cc1)OC(=[N]CCCCCCCC)C(c1ccc(C(F)(F)F)cc1)(c1ccccc1)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1ccc(N(=O)=O)cc1)OC(C(=O)NCCCCCCCC)(c1ccc(C(F)(F)F)cc1)c1ccccc1","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
{"reaction_id": "NR-061_1-c1ccccc1_2-CCCC(C)C","level": "easy","name": "Dieckmann Condensation","reactants_smiles": ["O(c1ccccc1)C(=O)CCCC(=O)O(CCCC(C)C)"],"products_smiles": ["O(c1ccccc1)C(=O)C1CCCC1=O"],"conditions": "Base","mechnism_text_description": "The Dieckmann condensation is the intramolecular reaction of diesters using strong bases yielding cyclic β-keto esters. It is the intramolecular variant of the Claisen condensation.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(c1ccccc1)C(=O)[CH-]CCCC(=O)O(CCCC(C)C)","step_weight": 0,"rationale": "Strong base abstracts the acidic α-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O(c1ccccc1)C(=O)C1C([O-])(O(CCCC(C)C))CCC1","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic ester carbonyl intramolecularly, favored by proximity and formation of a stable five-membered ring."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O(c1ccccc1)C(=O)C1CCCC1=O","step_weight": 0,"rationale": "Elimination of the alkoxide occurs because it is a good leaving group, restoring the carbonyl and yielding the conjugated β-keto ester."}],"description": "Under basic conditions, the α-proton of one ester is deprotonated to form an enolate, which intramolecularly attacks the carbonyl of the second ester, forming a cyclic intermediate. Elimination of the alkoxide yields the stable β-keto ester product."}
